US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.48 g, 1.4 mmol) in acetonitrile (10 mL), was added 4-chloro-benzoyl chloride (0.27 mL, 2.2 mmol) and N,N-diisopropyl ethylamine (0.62 mL, 3.6 mmol). The mixture was stirred at room temp overnight. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 4-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-benzamide as a white solid (390 mg, 62% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.18 min (98.0%); mp, 276-278° C.; 1HNMR (DMSO-d6) 2.18-2.23 (m, 1H, CHH), 2.58-2.93 (m, 6H, CHCH2, CH3), 4.97-5.08 (m, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.33-7.96 (m, 7H, Ar), 9.01 (t, 1H, J=6 Hz, CH2NH), 11.05 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.82, 23.29, 30.60, 42.21, 56.54, 117.66, 124.16, 125.52, 128.45, 129.17, 132.95, 133.95, 136.13, 140.69, 148.52, 154.84, 161.10, 165.23, 169.54, 172.63. LCMS MH=439, 441; Anal Calcd For C22H19N4O4Cl+0.1H2O: C, 59.96; H, 4.39; N, 12.71; Cl, 8.05. Found: C, 59.80; H, 4.13; N, 12.61; Cl, 8.30.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.4 mmol, 0.48 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | 4-chloro-benzoyl chloride | 2.2 mmol, 0.27 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | N,N-diisopropyl ethylamine | 3.6 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-chloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-benzamide | 390 mg, 62% yield | ClC1=CC=C(C(=O)NCC2=C3C(N(C(=NC3=CC=C2)C)C2C(NC(CC2)=O)=O)=O)C=C1 | C22H19ClN4O4
